US05668291
2-[2-(2-Acetylamino-2-carboxyethyldisulfanyl) benzoylamino]-3-methyl-pentanoic acid
A solution of 0.58 g (2.2 mmol) of [S-(R*,R*)]-3-methyl-2-(3-oxo-3H-benzo[d]isothiazol-2-yl)pentanoic acid in 20 mL of methanol was treated with 0.36 g (2.2 mmol) of N-acetyl-L-cysteine and the reaction was stirred at room temperature for 18 hours. The solvent was removed in vacuo and the residue was triturated with 100 mL of 60° C. water. The water was decanted and the solid was dissolved in 50 mL of ethyl acetate. The organic solution was dried (MgSO4), filtered and evaporated in vacuo to give the title compound as a white, solid foam, mp 85°-90° C.

reactant | 3-methyl-2-(3-oxo-3H-benzo[d]isothiazol-2-yl)pentanoic acid | CC(C(C(=O)O)N1SC2=C(C1=O)C=CC=C2)CC | C13H15NO3S
reactant | N-acetyl-L-cysteine | 2.2 mmol, 0.36 g | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
solvent | methanol | 20 mL | CO | CH4O
product | 2-[2-(2-Acetylamino-2-carboxyethyldisulfanyl) benzoylamino]-3-methyl-pentanoic acid | C(C)(=O)NS(SC1=C(C(=O)NC(C(=O)O)C(CC)C)C=CC=C1)CCC(=O)O | C18H26N2O6S2
